US07115595B2
A solution of (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-{4-[(methylamino)carbonyl]phenyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt (50 mg) in dry dimethylformamide (1 ml) was cooled with ice, and thereto was added pivaloyloxymethyl iodide (53 mg). The mixture was stirred at the same temperature for 1 hour. To the reaction solution were added ethyl acetate and ice-water, and separated. The organic layer was washed successively with a saturated brine (four times), an aqueous sodium hydrogen carbonate solution, an aqueous sodium thiosulfate solution, and a saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel thin layer chromatography (chloroform/methanol=9/1) to give [(2,2-dimethyl-propanoyl)oxy]methyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-{4-[(methylamino)carbonyl]phenyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (27 mg).

reactant | (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-{4-[(methylamino)carbonyl]phenyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt | 50 mg | [Na+].O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])C1=CC=C(C=C1)C(=O)NC
reactant | pivaloyloxymethyl iodide | 53 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | [(2,2-dimethyl-propanoyl)oxy]methyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-{4-[(methylamino)carbonyl]phenyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 27 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCOC(C(C)(C)C)=O)C1=CC=C(C=C1)C(=O)NC | C23H28N2O7
